US06096753
Ethyl 2-(4-fluorophenyl)-3-oxo-3-(4-(2-acetamido)-pyridyl))-propionate: A solution of 2-chloroisonicotinic acid (25.0 g, 0.16 mol) in 65 mL of concentrated ammonium hydroxide was warmed to 205 Celsius in a steel bomb for 72 h. After cooling to 23 C, the solution was acidified to a pH of 1 using 6N HCl and subsequently filtered to remove unreacted starting material. The solution was concentrated to one fourth the original volume (approx 200 mL) in vacuo, and carefully adjusted to a pH of 6 using 1 N NaOH. After storing the cloudy solution at 0 C for 20 h, the desired 2-aminoisonicotinic acid was filtered off. To a suspension of 2-aminoisonicotinic acid in ethanol (600 mL) was added 47.1 mL of 4 N anhydrous HCl in dioxane. After warming to achieve reflux for 20 h, an additional 47.1 mL of 4 N anhydrous HCl in dioxane was added and the reaction was warmed to -reflux for an additional 20 h. Concentration with a stream of nitrogen in the hood was followed by further concentration in vacuo, the remaining solid was diluted with saturated bicarbonate (200 mL), extracted with ethyl acetate (2×200 mL), dried (Na2SO4). After concentration in vacuo, the desired ethyl 2-aminoisonicotinate was obtained. To a solution of ethyl 2-aminoisonicotinic acid in pyridine (45 mL) at 0 C under an argon atmosphere was added acetyl chloride dropwise over 5 min. After 2 h at 0 C, the reaction was pored into over ice 300 g, extracted with ethyl acetate (2×300 mL), washed with water (2×100 ml) followed by brine (2×100 mL), and dried (Na2SO4). After concentration in vacuo, the residue was purified by application of flash chromatography (step gradient ethyl acetate: hexane 1:4 then ethyl acetate: hexane 1:1) to afford ethyl 2-acetamidoisonicotinate.

reactant | propionate | C(CC)(=O)[O-]
reactant | 2-chloroisonicotinic acid | 0.16 mol, 25.0 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | HCl | 6N | Cl | ClH
reactant | ammonium hydroxide | 65 mL | [OH-].[NH4+]
product | ethyl 2-aminoisonicotinate | NC=1C=C(C(=O)OCC)C=CN1 | C8H10N2O2
